US08535642B2
5-(N-((4-(3-(N-(3,5-bis(bis(2-hydroxyethyl)carbamoyl)-2,4,6-triiodophenyl)acetamido)-2-hydroxypropyl)-4-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-yl)methyl)acetamido)-N1,N1,N3,N3-tetrakis(2-hydroxyethyl)-2,4,6-triiodoisophthalamide
5-Acetylamino-N,N,N′,N′-tetrakis-(2-hydroxy-ethyl)-2,4,6-triiodo-isophthalamide (5 g, 6.45 mmol) was added to a stirring solution of potassium hydroxide (0.57 g, 10.1 mmol) in a mixture of methanol (3.5 ml) and water (3.5 ml). To the clear and slightly yellow solution which was obtained was added boric acid (0.35 g, 5.6 mmol). The pH was continuously maintained at pH 12.6 by addition of potassium hydroxide (10 M) and then 1,3-bis-oxiranyl-2-oxiranylmethyl-propan-2-ol (0.22 g, 1.09 mmol) was added. The pH of the solution was continuously maintained within the interval 12 and 13 by addition of solid boric acid for 5 hours. And the mixture stirred at ambient temperature overnight (20 hours). LC-MS investigation showed formation of the expected product. Using 18.5 M HCl ({umlaut over ( )}50%), the mixture was made acidic, pH 3.5-4.5 and stirred overnight again. Precipitation of unreacted monomer had occurred and removed by filtration of the mixture (funnel sinter 3) and the filter cake washed with water (2×5 ml). The filtrate was then treated with ion exchangers (AMB200C, 9 ml) and (IRA-67, 10 ml). The resins were removed by filtration and rinsed with water and the combined aqueous volume was reduced in vacuo. The crude product was purified by preparative HPLC (column Phenomenex Luna C18 (2) 10 μm 250×50.0 mm, solvents: A=water and B=acetonitrile; gradient 0-10% B over 60 min; flow 50.0 ml/min, UV detection at 214 nm and 254 nm). After freeze-drying, 290 mg of the title product was obtained.

reactant | 5-Acetylamino-N,N,N′,N′-tetrakis-(2-hydroxy-ethyl)-2,4,6-triiodo-isophthalamide | 6.45 mmol, 5 g | C(C)(=O)NC=1C(=C(C(=C(C(=O)N(CCO)CCO)C1I)I)C(=O)N(CCO)CCO)I | C18H24I3N3O7
reactant | potassium hydroxide | 10.1 mmol, 0.57 g | [OH-].[K+]
reactant | boric acid | 5.6 mmol, 0.35 g | B(O)(O)O | BH3O3
reactant | potassium hydroxide | 10 M | [OH-].[K+]
reactant | 1,3-bis-oxiranyl-2-oxiranylmethyl-propan-2-ol | 1.09 mmol, 0.22 g | O1C(C1)CC(CC1OC1)(O)CC1OC1 | C10H16O4
solvent | methanol | 3.5 ml | CO | CH4O
solvent | water | 3.5 ml | O | H2O
product | 5-(N-((4-(3-(N-(3,5-bis(bis(2-hydroxyethyl)carbamoyl)-2,4,6-triiodophenyl)acetamido)-2-hydroxypropyl)-4-hydroxy-6-(hydroxymethyl)tetrahydro-2H-pyran-2-yl)methyl)acetamido)-N1,N1,N3,N3-tetrakis(2-hydroxyethyl)-2,4,6-triiodoisophthalamide | OCCN(C(=O)C=1C(=C(C(=C(C1I)C(N(CCO)CCO)=O)I)N(C(C)=O)CC(CC1(CC(OC(C1)CO)CN(C(C)=O)C=1C(=C(C(=C(C(=O)N(CCO)CCO)C1I)I)C(=O)N(CCO)CCO)I)O)O)I)CCO | C46H64I6N6O18
